### PR TITLE
AArch64 Information Flow: initial setup

### PR DESCRIPTION
**Pull request by ryybrr**
Partial information flow proofs for AArch64. Please see c75ee1acaab886842f409ca379a7c21532a8e9c4 when reviewing the bulk of the changes as this provides the most minimal diff.

- Removed various instances of `pspace_aligned`, `valid_vspace_objs`, and
`valid_arch_state`. This mirrors previous cleanup efforts for access control (see: a759ea1376b43ef40b962a8e7001c2731e8d65a5).
- Strengthened `domain_sep_inv`, allowing proofs to relate `getActiveIRQ` instances with different flags.
- Ported the RISCV64 InfoFlow proofs to AARCH64. The majority of breakages have been addressed, with outstanding proof obligations deferred using the `sorry` command. Additional context is provided by `FIXME AARCH64 IF` comments in the theory files.

### CODE REVIEW

File: run_tests [hunk 1]
```diff
@@ -40,7 +40,9 @@ EXCLUDE["ARM_HYP"]=[
     "RefineOrphanage",
     "SimplExportAndRefine"]
 
-EXCLUDE["ARM"]=[]
+EXCLUDE["ARM"]=[
+    "InfoFlow" # for development only
```
Comment (Xaphiosis) [inline run_tests:44]: I don't understand. You're saying "build InfoFlow with sorries" in ROOT in this commit, but you're disabling InfoFlow testing for all arches that had it? Wouldn't we want to still test those arches, but have AARCH64 run through with sorries?

File: proof/infoflow/RISCV64/ArchUserOp_IF.thy [hunk 2]
```diff
@@ -566,9 +566,20 @@ proof -
...
+     apply (drule pt_lookup_vs_lookupI)
+     apply (fastforce simp: table_base_pt_slot_offset[OF vs_lookup_table_is_aligned])
+      apply (clarsimp simp: table_base_pt_slot_offset[OF vs_lookup_table_is_aligned])
+    apply (rule_tac x=asid in exI)
+     apply (rule_tac x=x in exI)
+     apply (subst table_base_pt_slot_offset[OF vs_lookup_table_is_aligned])
+           apply fastforce
+           apply fastforce
+           apply fastforce
+           apply fastforce
```
Comment (Xaphiosis) [inline proof/infoflow/RISCV64/ArchUserOp_IF.thy:578]: proof indentation

File: proof/infoflow/FinalCaps.thy [hunk 3]
```diff
@@ -2725,6 +2721,12 @@ lemma thread_set_tcb_fault_handler_update_silc_inv[wp]:
    \<lbrace>\<lambda>_. silc_inv aag st\<rbrace>"
   by (rule thread_set_silc_inv; simp add: tcb_cap_cases_def)
 
+lemma thread_set_tcb_arch_update_silc_inv[wp]:
+  "\<lbrace>silc_inv aag st\<rbrace>
+   thread_set (tcb_arch_update blah) t
+   \<lbrace>\<lambda>_. silc_inv aag st\<rbrace>"
```
Comment (Xaphiosis) [inline proof/infoflow/FinalCaps.thy:2727]: trivial: can use `thread_set (tcb_arch_update blah) t ⦃silc_inv aag st⦄` short syntax for same pre/post and no rv

File: proof/infoflow/ADT_IF.thy [hunk 4]
```diff
@@ -1382,6 +1378,30 @@ definition ADT_A_if ::
...
+          (s\<lparr>machine_state := (machine_state s\<lparr>irq_state := irq_state (machine_state s) + 1\<rparr>)\<rparr>)\<rbrace>
+   do_machine_op (getActiveIRQ in_kernel)
+   \<lbrace>P\<rbrace>"
+  apply (simp add: do_machine_op_def getActiveIRQ_def non_kernel_IRQs_def)
+  apply (wp modify_wp | wpc)+
+  apply clarsimp
+  apply (erule use_valid)
+   apply (wp modify_wp)
+  apply (auto simp: Let_def non_kernel_IRQs_def irq_at_def split: if_splits)
+  sorry
```
Comment (Xaphiosis) [inline proof/infoflow/ADT_IF.thy:1401]: traditionally we tag the sorries with a FIXME tag as well, but up to you if you want to do that for this project

File: proof/infoflow/AARCH64/ArchADT_IF.thy [hunk 5]
```diff
@@ -297,19 +297,40 @@ crunch arch_invoke_irq_control
...
-      | wps thread_set_caps_of_state_trivial[OF cps]
-            thread_set_thread_st_auth_trivT[OF st]
-            thread_set_thread_bound_ntfns_trivT[OF ntfn])+
+  unfolding handle_reserved_irq_def
+  apply (rule hoare_gen_asm)
+  apply (wpsimp wp: when_wp[where P'="\<bottom>"] simp: non_kernel_IRQs_def irq_vppi_event_index_def)
+  done
+
+lemma thread_set_context_state_hyp_refs_of[CNode_AC_assms]:
+  "thread_set (tcb_arch_update (arch_tcb_context_set ctxt)) t \<lbrace>\<lambda>s. P (state_hyp_refs_of s)\<rbrace>"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchADT_IF.thy:306]: this kind of thing feels like it could be moved to AInvs during cleanup, possible FIXME move?

File: proof/infoflow/AARCH64/ArchADT_IF.thy [hunk 6]
```diff
@@ -297,19 +297,40 @@ crunch arch_invoke_irq_control
...
+(* FIXME AARCH64 IF: make generic *)
+lemma thread_set_context_pas_refined[ADT_IF_assms]:
+  "thread_set (tcb_arch_update (arch_tcb_context_set ctxt)) t \<lbrace>pas_refined aag\<rbrace>"
+  unfolding pas_refined_def state_objs_to_policy_def
+  apply (rule hoare_weaken_pre)
+   apply (wpsimp wp: tcb_domain_map_wellformed_lift_strong thread_set_edomains)
+   apply (wps thread_set_state_vrefs thread_set_context_state_hyp_refs_of)
+   apply (rule hoare_lift_Pf2[where f="caps_of_state"])
+    apply (rule hoare_lift_Pf2[where f="thread_st_auth"])
+     apply (rule hoare_lift_Pf2[where f="thread_bound_ntfns"])
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchADT_IF.thy:323]: no chance for wps for these?

File: proof/infoflow/AARCH64/ArchCNode_IF.thy [hunk 7]
```diff
@@ -56,19 +56,15 @@ lemma set_cap_globals_equiv[CNode_IF_assms]:
...
-  "\<lbrace>\<lambda>s. P (irq_at (irq_state (machine_state s) + 1) (irq_masks (machine_state s)))
-          (s\<lparr>machine_state := (machine_state s\<lparr>irq_state := irq_state (machine_state s) + 1\<rparr>)\<rparr>)\<rbrace>
-   do_machine_op (getActiveIRQ in_kernel)
-   \<lbrace>P\<rbrace>"
-  apply (simp add: do_machine_op_def getActiveIRQ_def non_kernel_IRQs_def)
-  apply (wp modify_wp | wpc)+
+  "irq_at pos masks \<equiv> let i = irq_oracle pos in (if masks i then None else Some i)"
+
+lemma dmo_getActiveIRQ_globals_equiv[CNode_IF_assms]:
+  "\<lbrace>globals_equiv st\<rbrace> do_machine_op (getActiveIRQ in_kernel) \<lbrace>\<lambda>_. globals_equiv st\<rbrace>"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchCNode_IF.thy:62]: can use short form

File: proof/infoflow/AARCH64/ArchIpc_IF.thy [hunk 8]
```diff
@@ -234,8 +234,15 @@ lemma handle_arch_fault_reply_reads_respects[Ipc_IF_assms, wp]:
   "reads_respects aag l (K (aag_can_read aag thread)) (handle_arch_fault_reply afault thread x y)"
   by (simp add: handle_arch_fault_reply_def, wp)
 
+lemma arch_thread_get_reads_respects[wp]:
+  "reads_respects aag l (K (aag_can_read_or_affect aag l t)) (arch_thread_get f t)"
+  unfolding arch_thread_get_def
+  apply (wpsimp)
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchIpc_IF.thy:240]: parentheses, can use two line `by` proof

File: proof/infoflow/AARCH64/ArchUserOp_IF.thy [hunk 9]
```diff
@@ -475,19 +442,49 @@ lemma level_le_2_cases:
...
+  apply (rename_tac n)
+  apply (case_tac n; clarsimp)
+   apply (clarsimp simp: pt_bits_left_def pageBits_def ptTranslationBits_def max_pt_level_def split: if_splits)
+  apply (rename_tac n)
+  apply (case_tac n; clarsimp)
+   apply (clarsimp simp: pt_bits_left_def pageBits_def ptTranslationBits_def max_pt_level_def asid_pool_level_def split: if_splits)
+  apply (rename_tac n)
+  apply (case_tac n; clarsimp)
+   apply (clarsimp simp: pt_bits_left_def pageBits_def ptTranslationBits_def max_pt_level_def asid_pool_level_def split: if_splits)
+   apply (clarsimp simp: pt_bits_left_def pageBits_def ptTranslationBits_def max_pt_level_def asid_pool_level_def pt_bits_left_bound_def split: if_splits)
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchUserOp_IF.thy:480]: AARCH64 we have `level_defs` and `bit_simps` which should greatly reduce the amount of things you need to mention; you can find them by doing:
```
find_names asid_pool_level_def
find_names ptTranslationBits_def
```

File: proof/infoflow/AARCH64/ArchUserOp_IF.thy [hunk 10]
```diff
@@ -142,20 +142,18 @@ lemma requiv_get_pt_entry_eq:
...
-    apply (clarsimp simp: pt_lookup_slot_def pt_lookup_slot_from_level_def)
-    apply (prop_tac "ba = bb", clarsimp simp: pt_slot_offset_def)
-    apply (frule pt_walk_is_aligned)
-     apply (erule vs_lookup_table_is_aligned; clarsimp simp: canonical_not_kernel_is_user)
-    apply (erule pt_walk_is_subject, (fastforce simp: canonical_not_kernel_is_user)+)
-  apply (rule requiv_get_pt_entry_eq; fastforce simp: canonical_not_kernel_is_user)
+    apply (clarsimp simp: pt_lookup_slot_def)
+    apply (rule_tac pt_lookup_slot_from_level_is_subject)
+            apply fastforce+
+  apply (rule requiv_get_pt_entry_eq; fastforce)
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchUserOp_IF.thy:156]: potentially can fold into previous with `intro!: requiv_get_pt_entry_eq`, no?

File: proof/infoflow/AARCH64/ArchNoninterference.thy [hunk 11]
```diff
@@ -386,18 +414,71 @@ lemma dmo_getActive_IRQ_reads_respect_scheduler[Noninterference_assms]:
...
+   let i = irq_oracle pos in (if masks i \<or> in_kernel \<and> i \<in> non_kernel_IRQs then None else Some i)"
+
+lemma dmo_getActiveIRQ_wp':
+  "\<lbrace>\<lambda>s. P (irq_at' in_kernel (irq_state (machine_state s) + 1) (irq_masks (machine_state s)))
+          (s\<lparr>machine_state := (machine_state s\<lparr>irq_state := irq_state (machine_state s) + 1\<rparr>)\<rparr>)\<rbrace>
+   do_machine_op (getActiveIRQ in_kernel)
+   \<lbrace>P\<rbrace>"
+  apply (simp add: do_machine_op_def getActiveIRQ_def non_kernel_IRQs_def)
+  apply (wp modify_wp | wpc)+
+  apply clarsimp
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchNoninterference.thy:451]: wpsimp usually supplants wpc and clarsimp

File: proof/infoflow/AARCH64/ArchFinalCaps.thy [hunk 12]
```diff
@@ -249,14 +304,36 @@ lemma arch_invoke_irq_control_silc_inv[FinalCaps_assms]:
...
 crunch set_priority, set_flags
   for silc_inv[wp]: "silc_inv aag st"
   (simp: tcb_cap_cases_def)
 
 crunch arch_prepare_set_domain, arch_prepare_next_domain, arch_post_set_flags
-  for inv[FinalCaps_assms,wp]: P
+  for silc_inv[FinalCaps_assms, wp]: "silc_inv aag st"
+  (wp: crunch_wps)
+
+
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchFinalCaps.thy:318]: extra newline?

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 13]
```diff
@@ -150,6 +158,18 @@ lemma set_cap_globals_equiv''[Arch_IF_assms]:
...
   done
 
+(* FIXME AARCH64 IF: consolidate definitions *)
+lemma set_cap_globals_equiv''':
+  "\<lbrace>globals_equiv s and valid_global_arch_objs\<rbrace>
+   set_cap cap p
+   \<lbrace>\<lambda>_. globals_equiv s\<rbrace>"
+  unfolding set_cap_def
+  apply (simp only: split_def)
+  apply (wp set_object_globals_equiv hoare_vcg_all_lift get_object_wp | wpc | simp)+
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:168]: wpsimp possible here?

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 14]
```diff
@@ -1170,6 +1266,27 @@ definition authorised_for_globals_arch_inv ::
              | InvokePage oper \<Rightarrow> authorised_for_globals_page_inv oper
              | _ \<Rightarrow> \<top>"
 
+(*
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:1269]: tag with FIXME?

File: proof/infoflow/AARCH64/ArchDecode_IF.thy [hunk 15]
```diff
@@ -172,22 +174,86 @@ lemma decode_asid_control_invocation_reads_respects_f:
   apply fastforce
   done
 
+(* FIXME AARCH64 IF: proof cleanup *)
+
+lemma
+  notes reads_respects_f_inv' = reads_respects_f_inv[where st=st]
+  notes whenE_wps[wp_split del]
+  shows reads_respects_f_check_vspace_root[wp]:
+  "reads_respects_f aag l \<top> (check_vspace_root cap arg)"
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchDecode_IF.thy:183]: hang on, can't the name move from the `shows` to the `lemma`? this is very unusual format

File: proof/infoflow/AARCH64/ArchDecode_IF.thy [hunk 16]
```diff
@@ -203,53 +269,43 @@ lemma decode_frame_invocation_reads_respects_f:
...
-                           pt_lookup_slot_def pt_lookup_slot_from_level_def obind_def
-                    split: option.splits)+)[1]
-  apply (subgoal_tac "is_subject aag (table_base bb)", clarsimp)
-  apply (clarsimp simp: pt_lookup_slot_def pt_lookup_slot_from_level_def vspace_for_asid_def)
-  apply (frule pt_walk_is_aligned)
-   apply (erule (1) vspace_for_pool_is_aligned[OF _ _ user_region0]; clarsimp)
+  apply (clarsimp simp: valid_arch_cap_def wellformed_mapdata_def)
+  done
+
+lemma helper:
```
Comment (Xaphiosis) [inline proof/infoflow/AARCH64/ArchDecode_IF.thy:275]: helper is a poor name, usually these are named after the lemma(s) they help with (e.g. blah_update_helper)

File: run_tests (hunk 1 above)
Comment (lsf37) [reply run_tests:44]: Unless there are changes to the generic files that are temporarily breaking the infoflow proofs on ARM/RISCV. @ryybrr is that the case? If not, we should indeed not remove them.

Comment (ryybrr) [reply run_tests:44]: Yep, have made changes to the generic files without updating ARM/RISCV. I was planning to leave them for now; since this PR also includes partial proofs, the interface may shift further. If you'd prefer, I could see if it's a quick fix?

File: proof/infoflow/AARCH64/ArchADT_IF.thy (hunk 5 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchADT_IF.thy:306]: I should be able to cut it altogether. `CNode_AC_assms` appearing here makes me think it's an unused remnant from WIP proofs.

File: proof/infoflow/AARCH64/ArchADT_IF.thy (hunk 6 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchADT_IF.thy:323]: I'll review, but I recall there being a reason why it didn't work.

File: proof/infoflow/AARCH64/ArchDecode_IF.thy (hunk 16 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchDecode_IF.thy:275]: This part of the file comes under a previous `FIXME AARCH64 IF: proof cleanup` comment, so ideally this lemma would be removed altogether.  I wanted to brute force a proof but didn't have the time to perform the proper cleanup.

File: proof/infoflow/ADT_IF.thy (hunk 4 above)
Comment (ryybrr) [reply proof/infoflow/ADT_IF.thy:1401]: The convention I'm using is:
- `FIXME` + `sorry` when there's something blocking the proof
- `sorry` when there are no obvious blockers but I haven't had the time to finish the proof

File: proof/infoflow/AARCH64/ArchUserOp_IF.thy (hunk 9 above)
Comment (ryybrr) [reply proof/infoflow/AARCH64/ArchUserOp_IF.thy:480]: Not directly related, but these lemmas tagged with `FIXME AARCH64 IF: move` were copied from other architectures as I couldn't find equivalent rules. Do you know if something similar exists for AARCH64 already?

Comment (Xaphiosis) [reply proof/infoflow/AARCH64/ArchUserOp_IF.thy:480]: RISCV64 has these in `ArchInvariants_AI.thy` but I'm not seeing anything in AARCH64 (if you mean "is there something like pt_bits_left_le_canonical already in AARCH64)

File: proof/infoflow/AARCH64/ArchADT_IF.thy (hunk 5 above)
Comment (Xaphiosis) [reply proof/infoflow/AARCH64/ArchADT_IF.thy:306]: Likely. I think normally we don't unfold it, i.e.
```
lemma arch_thread_set_is_thread_set:
  "arch_thread_set f t = thread_set (tcb_arch_update f) t"
```
but then we have this:
```
lemma arch_thread_set_sym_refs_hyp':
  "⟦⋀tcb. hyp_refs_of (TCB tcb) = hyp_refs_of (TCB (tcb_arch_update f tcb))⟧
   ⟹ arch_thread_set f t ⦃λs. P (state_hyp_refs_of s)⦄
```
which can't be interfaced directly. There's an instantiated version for FPU state, but not one for state_hyp_refs_of. There's also an ominous comment a bit above it in ArchTcbAcc_AI:
```
― ‹FIXME: Shouldn't state_hyp_refs_of be generic? If it was, then this and
          arch_thread_set_sym_refs_hyp' could be generic as well›
```
so that might be worth fixing up.

File: run_tests (hunk 1 above)
Comment (lsf37) [reply run_tests:44]: It's worth checking out, but not high priority. We're not expecting this to be a very long-lived branch.

File: proof/infoflow/AARCH64/ArchDecode_IF.thy (hunk 15 above)
Comment (lsf37) [reply proof/infoflow/AARCH64/ArchDecode_IF.thy:183]: Agreed, unless we have multiple parts to the `shows` (separated with `and`), the name should be at `lemma` so it remains searchable.

**Comment by lsf37** [comment]
Closing this, because it is superseded by and included in #1018
